US05648372
Synthesis of 1-(2,4-difluorophenyl)-1-(4-(4-cyanothiazol-2-yl)-thiophen-2-yl)-2-(1H-1,2,4-triazol-1-yl)ethanol
1-(2,4-Difluorophenyl)-1-(4-(4-carbamoylthiazol-2-yl)-thiophen-2-yl)-2-(1H-1,2,4-triazol-1-yl)ethanol (1.2 g) was dissolved in pyridine (7.1 ml). The solution was cooled on an ice bath, and phosphorus oxychloride (0.29 ml) was added thereto. The resultant mixture was stirred for 30 minutes. After the reaction, the reaction mixture was added with saline and extracted with ethyl acetate. An organic layer was washed once with 6N hydrochloric acid (20 ml) and then each once with water, a saturated aqueous solution of sodium hydrogencarbonate and saturated saline. After the thus-washed organic layer was dried over magnesium sulfate, the solvent was distilled out, and the residue was purified by chromatography on silica gel. Recrystallization from a solution of dichloromethane in ether was further conducted to obtain a solid (800 mg). Melting point: 172°-173° C.

reactant | 1-(2,4-Difluorophenyl)-1-(4-(4-carbamoylthiazol-2-yl)-thiophen-2-yl)-2-(1H-1,2,4-triazol-1-yl)ethanol | 1.2 g | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(O)C=1SC=C(C1)C=1SC=C(N1)C(N)=O | C18H13F2N5O2S2
reactant | phosphorus oxychloride | 0.29 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 7.1 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2,4-difluorophenyl)-1-(4-(4-cyanothiazol-2-yl)-thiophen-2-yl)-2-(1H-1,2,4-triazol-1-yl)ethanol | 800 mg | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(O)C=1SC=C(C1)C=1SC=C(N1)C#N | C18H11F2N5OS2
